US08802864B2
b) 4-(4-bromo-5-chloro-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
N-(4-bromo-5-chloro-2-fluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (2.426 mmol) and K2CO3 (8.49 mmol) were added to a round-bottom flask and suspended in water (105 mL). The mixture was heated at reflux (115° C.) for 21 h. Analysis by LCMS indicated formation of desired product (and other major by-products). The reaction was cooled to room temperature and the pH was adjusted to ˜6 with 1N aq HCl and poured into a separatory funnel containing ethyl acetate. The aqueous layer was extracted with ethyl acetate (3×) and the combined organic layers were dried over Na2SO4, filtered, and concentrated to an oil. The residue was purified by silica gel chromatography (0-30% isopropanol/ethyl acetate). The desired fractions were combined and concentrated to afford the title product as an off-white solid (401 mg, 38%). MS(ES)+ m/e 443.0, 445.0 [M+H]+.

reactant | N-(4-bromo-5-chloro-2-fluorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 2.426 mmol | BrC1=CC(=C(C=C1Cl)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H19BrClFN4O3
reactant | K2CO3 | 8.49 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 105 mL | O | H2O
product | 4-(4-bromo-5-chloro-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=CC(=C(C=C1Cl)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H17BrClFN4O2
